US07705023B2
(c) 2-(4-Bromophenoxy)-2-methylpropanoic acid methyl ester
2-(4-Bromophenoxy)-2-methylpropanoyl chloride (2.34 g, 8.4 mmol) in THF (10 mL) was added dropwise whilst stirring to anhydrous MeOH (1.34 g, 42 mmol), Et3N (1.7 g, 16.8 mmol) and THF at 0° C. The mixture was stirred at room temperature for 3 h, concentrated and distilled to afford the sub-title compound (1.74 g, 97%).

reactant | 2-(4-Bromophenoxy)-2-methylpropanoyl chloride | 8.4 mmol, 2.34 g | BrC1=CC=C(OC(C(=O)Cl)(C)C)C=C1 | C10H10BrClO2
reactant | MeOH | 42 mmol, 1.34 g | CO | CH4O
reactant | Et3N | 16.8 mmol, 1.7 g | CCN(CC)CC | C6H15N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(4-Bromophenoxy)-2-methylpropanoic acid methyl ester | 1.74 g, 97% | COC(C(C)(C)OC1=CC=C(C=C1)Br)=O | C11H13BrO3
